US04358525
Step 1: 2-Chloroformyl-1-phenyl-3-pyrazolidinone
To a rapidly mechanically stirred--78° C. solution of dichloromethane (250 ml), containing a 1 N toluene solution of phosgene (204 ml-0.204 mole), and protected by a nitrogen atmosphere, was added a solution of 1-phenyl-3-pyrazolidinone and diisopropylethylamine in 200 ml of a 1:1 mixture of dimethylacetamide (DMA) and dichloromethane [prepared by dissolving 30.0 g(0.185 mole)1-phenyl-3-pyrazolidone in 100 ml of DMA and adding next the dichloromethane and then the diisopropylethylamine (35.5 ml, 0.204 mole]. The addition was rapid but dropwise, requiring≈30 minutes; a precipitate began to appear about 2/3 through the addition. After 10 minutes additional stirring at -78° C., the reaction was quenched by adding 6 ml of concentrated HCl. The reaction was then added to 500 ml of cold 1 N HCL and 500 ml of dichloromethane. After brief shaking the layers were separated and the dichloromethane layer briefly washed with 500 ml of cold 1 N HCl. After drying over anhydrous MgSO4, the solution was concentrated in vacuo to approximately 300 ml and the precipitate which had appeared was collected and washed with ligroin. After drying in vacuo overnight the yield of this white solid was 34.7 g (83%).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1-phenyl-3-pyrazolidinone | C1(=CC=CC=C1)N1NC(CC1)=O | C9H10N2O
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-phenyl-3-pyrazolidone | 0.185 mole, 30.0 g | C1(=CC=CC=C1)N1NC(CC1)=O | C9H10N2O
solvent | DMA | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 1 N | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-Chloroformyl-1-phenyl-3-pyrazolidinone | ClC(=O)N1N(CCC1=O)C1=CC=CC=C1 | C10H9ClN2O2
